US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-N2-[2-(trifluoromethoxy)benzyl]-5-(trifluoromethyl)pyrimidine-2,4-diamine
To a solution of the above (4-chloro-5-trifluoromethyl-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine (80 mg, 0.22 mmol) in DMF (2 mL) was added the Boc-protected cyclohexyl amine (74 mg, 0.33 mmol) followed by DIPEA (37 μL, 0.22 mmol). The reaction mixture was stirred at 70° C. for 3 h. When the reaction was complete, the reaction mixture was diluted with EtOAc and washed with water (×4). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 95:5 CH2Cl2:MeOH as an eluent. The resulting residue was then re-dissolved in CH2Cl2 (10 mL) and TFA (1 mL) was added. The reaction mixture was stirred at room temperature for 2 h and treated with saturated NaHCO3. The product was extracted with CH2Cl2 and dried over anhydrous Na2SO4. Silica gel preparative TLC using CH2Cl2:MeOH:NH4OH 10:1:0.2 as an eluent afforded 56 mg (56%) of the title compound as a white solid, m/z 462.4 [M−1]+.

reactant | (4-chloro-5-trifluoromethyl-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine | 0.22 mmol, 80 mg | ClC1=NC(=NC=C1C(F)(F)F)NCC1=C(C=CC=C1)OC(F)(F)F | C13H8ClF6N3O
reactant | DIPEA | 0.22 mmol, 37 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-[(trans-4-aminocyclohexyl)methyl]-N2-[2-(trifluoromethoxy)benzyl]-5-(trifluoromethyl)pyrimidine-2,4-diamine | 56 mg, 56% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C(F)(F)F)NCC1=C(C=CC=C1)OC(F)(F)F | C20H23F6N5O
